*SPICE model for MSA9970
*Start Package model 
.SUBCKT MSA9970  OUT   IN   GND
* PI NETWORK TO SIMULATE TRANSMISSION LINE T1
C1T1    11      0       .070PF
LT1     11      12      .224NH
C2T1    12      0       .070PF
* PI NETWORK TO SIMULATE TRANSMISSION LINE T2
C1T2    14      0       .019PF
LT2     14      15      .034NH
C2T2    15      0       .019PF
* PI NETWORK TO SIMULATE TRANSMISSION LINE T3
C1T3    13      0       .098PF
LT3     13      DIEOUT  .312NH
C2T3    DIEOUT  0       .098PF
* Bond wire inductance
LLB     12      DIEIN   .5NH
LLE     15      DIEGND  .14NH
* Contact inductance
LL1     IN      11      .05NH
LL2     GND     14      .01NH
LL3     OUT     13      .05NH
*Parasitic capacitances
CCEB    12      15      .02PF
CCEC    15      DIEOUT  .01PF
CCBC    12      DIEOUT  .02PF
*end Package model
*
* Start die model
* MSA-99 MODEL
*MSA-99 uses MSA-09 die with feedback unconnected (added externally by user)
* INSERT DIE MODEL
* DIE MODEL
XA09 DIEOUT  DIEIN   DIEGND MSA09
.ENDS
*
.SUBCKT MSA09   DIEOUT  DIEIN   DIEGND
RF      DIEIN   13      150   
RE      Q2E     DIEGND  12    
RB      DIEIN   DIEGND  2000  
RBIAS   Q1E     DIEGND  115   
RDC     DIEIN   DIEOUT  6000  
CF      DIEIN   DIEOUT  0.114PF
CFB     13      DIEOUT  0.058PF
CP1     Q1E     DIEOUT  0.020PF
CP2     Q2E     DIEOUT  0.023PF
CP3     DIEGND  DIEOUT  0.168PF
XA09Q1  DIEOUT  DIEIN   Q1E     A09Q1
XA09Q2  DIEOUT  Q1E     Q2E     A09Q2
.ENDS
* Q1 distributed base model
.SUBCKT A09Q1   Q1C     Q1B     Q1E
RB1     Q1B     11     2.6   
RB2     11      12     9.1   
RB3     12      B1     7.9   
RE      E1      Q1E    0.63  
RC      C1      Q1C    5     
Q1      C1      B1     E1      QMSA    156
DCD1    Q1B     C1     DMOD    377
DCD2    11      C1     DMOD    138
DCD3    12      C1     DMOD    156
.ENDS
* Q2 distributed base model
.SUBCKT A09Q2   Q2C     Q2B     Q2E
RB1     Q2B     21     1.0   
RB2     21      22     3.3   
RB3     22      B2     2.8   
RE      E2      Q2E    0.22  
RC      C2      Q2C    5     
Q1      C2      B2     E2      QMSA    438
DCD1    Q2B     C2     DMOD    782
DCD2    21      C2     DMOD    609
DCD3    22      C2     DMOD    385
.ENDS
.MODEL  DMOD    D(IS=1E-25, CJO=2.45E-16, VJ=.76, M=.53, BV=45, IBV=1E-9)
.MODEL  QMSA    NPN (BF=90, BR=5, IS=1.65E-18, VA=20, TF=12PS,
+               CJE=1.8E-15, VJE=1.01, MJE=0.6, PTF=25, XTB=1.818,
+               VTF=6, ITF=3E-4, IKF=1.333E-4, XTF=4, NF=1.03, ISE=5E-15,
+               NE=2.5)
*end Die model